US06391903B1
1(ii) 3-Fluoro-4-[(1E,3E)-5-oxo-1,3-pentadienyl]benzonitrile
0.5 ml (0.77 mmol) of a 1.53 N hexane solution of butyllithium were added dropwise to a solution of 209 mg (0.77 mmol) of diethyl 4-cyano-2-fluorobenzylphosphonate [which was obtained in Step 1(i) above) in 4 ml of anhydrous tetrahydrofuran at −78° C. with stirring. The mixture was stirred at −78° C. for 30 minutes. At the end of this time, a solution of 100 mg (0.77 mmol) of commercially available fumaraldehyde mono-dimethylacetal in 2 ml of anhydrous tetrahydrofuran was added to the mixture, and the resulting mixture was stirred at −78° C. for 2 hours. The cooling bath was then removed and the mixture was stirred in an ice bath for a further 15 minutes. 3.9 ml (0.39 mmol) of 0.1 N hydrochloric acid were added to the reaction mixture and the mixture was then stirred for 30 minutes in the ice bath and then for 1 hour at ambient temperature. At the end of this time, a saturated aqueous sodium hydrogen carbonate solution was added to the mixture in an ice bath. The resulting mixture was partitioned between ethyl acetate and water, the organic layer was washed with water and with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The crystalline residue thus obtained was recrystallized from a mixture of ethyl acetate and hexane to afford 127 mg (yield 87%) of the title compound as pale yellow crystals.

reactant | butyllithium | C(CCC)[Li]
reactant | diethyl 4-cyano-2-fluorobenzylphosphonate | 0.77 mmol, 209 mg | C(#N)C1=CC(=C(CP(OCC)(OCC)=O)C=C1)F | C12H15FNO3P
reactant | hydrochloric acid | 0.39 mmol, 0.1 N, 3.9 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.53 N | CCCCCC | C6H14
product | 3-Fluoro-4-[(1E,3E)-5-oxo-1,3-pentadienyl]benzonitrile | 127 mg, yield 87% | FC=1C=C(C#N)C=CC1\C=C\C=C\C=O | C12H8FNO
